US04471116
A mixture of 4-benzyloxyphenol (50 g), 1,3-dibromopropane (101 g) and powdered anhydrous potassium carbonate (17.3 g) in acetone (500 ml) was stirred under reflux for 30 hours. The solids were removed by filtration and the filtrate was evaporated to dryness in vacuo. The residue was dissolved in 300 ml of dichloromethane and the resulting solution was washed with 10% sodium hydroxide solution to remove unreacted p-benzyloxyphenol. The dichloromethane extract was dried over potassium carbonate, concentrated in vacuo and distilled giving 33.4 g of 1-benzyloxy-4-(3-bromopropoxy)benzene; bp 180°-195° (0.6 mm) (41% yield, 98% pure by gas chromatography). The structure was confirmed by mass spectrum analysis.

reactant | 4-benzyloxyphenol | 50 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 1,3-dibromopropane | 101 g | BrCCCBr | C3H6Br2
reactant | potassium carbonate | 17.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 500 ml | CC(=O)C | C3H6O
product | 1-benzyloxy-4-(3-bromopropoxy)benzene | 33.4 g, 41% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)OCCCBr | C16H17BrO2
